US05177087
1-Acetyl-4-[2,4-di(piperidino)benzoyl]piperidine
A mixture consisting of 2.67 g of 1-acetyl-4-(2,4-difluorobenzoyl)piperidine and 5.0 ml of piperidine was stirred at 100° C. for 24 hours and the reaction mixture was then worked up in the same manner as Example 2 to give 3.3 g of the title compound as oil.

reactant | 1-acetyl-4-(2,4-difluorobenzoyl)piperidine | 2.67 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)F)F)=O | C14H15F2NO2
reactant | piperidine | 5.0 ml | N1CCCCC1 | C5H11N
product | 1-Acetyl-4-[2,4-di(piperidino)benzoyl]piperidine | 3.3 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)N1CCCCC1)N1CCCCC1)=O | C24H35N3O2
